US04579947
A solution of 1-(3-aminopropyl)-4-(4-fluorobenzyl)piperazine (2.0 g; 8 mmole) and cyclohexyl isocyanate (1.0 g; 8 mmole) in methylene chloride (20 ml) was stirred overnight at room temperature. The reaction mixture was evaporated, and the residue was mixed with ether (20 ml). The ether solution was filtered, and the filtrate was applied to a silica gel column (300 g) and developed in the same solvent. Fractions containing the product were eluted with methylene chloride/methanol/ammonium hydroxide (45:5:1), and on evaporation provided 1-{3-[4-(4-fluorobenzyl)piperazin-1-yl]propyl}-3-cyclohexylurea as a pale yellow oil (2.6 g; 85% yield). The product was dissolved in ether, precipitated with ethereal hydrogen chloride and recrystallized from ethanol to yield the title compound as colorless crystals (2.96 g; 80% yield), m.p. 203°-206° C.

reactant | 1-(3-aminopropyl)-4-(4-fluorobenzyl)piperazine | 8 mmole, 2.0 g | NCCCN1CCN(CC1)CC1=CC=C(C=C1)F | C14H22FN3
reactant | cyclohexyl isocyanate | 8 mmole, 1.0 g | C1(CCCCC1)N=C=O | C7H11NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-{3-[4-(4-fluorobenzyl)piperazin-1-yl]propyl}-3-cyclohexylurea | 85% yield | FC1=CC=C(CN2CCN(CC2)CCCNC(=O)NC2CCCCC2)C=C1 | C21H33FN4O
